US08071768B2
a. (4-Morpholin-4-yl-phenyl)-carbamic acid 4-nitro-phenyl ester
A mixture of 4-morpholinoaniline (1.01 g, 5.68 mmol) and CaCO3 (743 mg, 7.42 mmol) (10 micron powder) was treated with a solution of 4-nitrophenyl chloroformate (1.49 g, 7.39 mmol) in DCM (7.5 mL) in one portion under air on an ice bath. The thick, easily stirred reaction slurry was stirred for 1-2 min on the ice bath before stirring at rt for 1 h. The slurry was then diluted with 9:1 DCM/MeOH (7.5 mL) and directly applied to a flash silica column (95:5 DCM/MeOH) to provide 0.7 g of material. This was further purified by trituration with hot toluene (25 mL) to afford the title compound as a light olive green powder (444 mg, 23%). 1H NMR (300 MHz, CDCl3) δ 8.28 (m, 2H), 7.42-7.31 (m, 4H), 6.95-6.85 (m, 3H), 3.86 (m, 4H), 3.13 (m, 4H).

reactant | 4-morpholinoaniline | 5.68 mmol, 1.01 g | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | CaCO3 | 7.42 mmol, 743 mg | C(=O)([O-])[O-].[Ca+2]
reactant | 4-nitrophenyl chloroformate | 7.39 mmol, 1.49 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | DCM | 7.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM MeOH | 7.5 mL | C(Cl)Cl.CO
product | (4-Morpholin-4-yl-phenyl)-carbamic acid 4-nitro-phenyl ester | 0.7 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)N1CCOCC1)=O | C17H17N3O5
